US06716851B2
4-(4-Chloro-2-methoxy-5-methylanilino)-2-(3-pyridinyl)-6-(trifluoromethyl)pyrimidine
The title compound was prepared from a mixture of 4-chloro-2-(3-pyridinyl)-6-(trifluoromethyl)pyrimidine (50 mg, 0.193 mmol) and 4-chloro-2-methoxy-5-methylaniline (50 mg, 0.289 mmol) similar to Example 117 and isolated as a tan solid (26 mg, 34%). 1H NMR (CDCl3): 9.65-9.63 (m, 1H), 8.75-8.70 (m, 2H), 8.18 (s, 1H), 7.46-7.41 (m, 1H), 7.36 (s, 1H), 6.97 (s, 1H), 6.87 (s, 1H), 3.91 (s, 3H), 2.42 (s, 3H).

reactant | 4-chloro-2-(3-pyridinyl)-6-(trifluoromethyl)pyrimidine | 0.193 mmol, 50 mg | ClC1=NC(=NC(=C1)C(F)(F)F)C=1C=NC=CC1 | C10H5ClF3N3
reactant | 4-chloro-2-methoxy-5-methylaniline | 0.289 mmol, 50 mg | ClC1=CC(=C(N)C=C1C)OC | C8H10ClNO
product | 4-(4-Chloro-2-methoxy-5-methylanilino)-2-(3-pyridinyl)-6-(trifluoromethyl)pyrimidine | ClC1=CC(=C(NC2=NC(=NC(=C2)C(F)(F)F)C=2C=NC=CC2)C=C1C)OC | C18H14ClF3N4O
